US09376452B2
tert-Butyl 2-amino-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (0.28 g, 1.00 mmol) and 4-fluorobenzoyl isothiocyanate (0.18 g, 0.99 mmol) were dissolved in THF (5 mL) and heated at 50° C. for 22 hours. The solvent was removed and EtOH (10 mL) was added. The product was filtered and rinsed with EtOH (2×10 mL). tert-Butyl 2-(3-(4-fluorobenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (0.330 g, 0.71 mmol, 71% yield) was isolated as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ 14.70 (s, 1H), 9.01 (s, 1H), 8.00-7.94 (m, 2H), 7.25-7.18 (m, 2H), 4.74 (apparent t, J=1.5 Hz, 2H), 2.76 (apparent t, J=1.5 Hz, 2H), 1.64 (s, 9H), 1.31 (s, 6H).

reactant | tert-Butyl 2-amino-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 1.00 mmol, 0.28 g | NC1=C(C2=C(COC(C2)(C)C)S1)C(=O)OC(C)(C)C | C14H21NO3S
reactant | 4-fluorobenzoyl isothiocyanate | 0.99 mmol, 0.18 g | FC1=CC=C(C(=O)N=C=S)C=C1 | C8H4FNOS
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-(3-(4-fluorobenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.71 mmol, 0.330 g, 71% yield | FC1=CC=C(C(=O)NC(NC2=C(C3=C(COC(C3)(C)C)S2)C(=O)OC(C)(C)C)=S)C=C1 | C22H25FN2O4S2
